US08076505B2
3′,4′-dichloro-2-fluoro-4-cyanomethyl-biphenyl (9.0 g, 0.032 mol), 1,2-dibromomethane (9.0 g, 0.048 mol), 1.2 tetrabutylammonium chloride (1.2 g, 0.043 mol), toluene (60 ml), and water (9 ml) were loaded in a reactor. Sodium hydroxide 30% aq. (60 g, 0.45 mol) was added drop-wise over 30 minutes at 20 to 25° C. and the reaction mixture was stirred for 6 hours. The organic phase was separated, washed with water (12 ml), with hydrogen chloride 3 M aq. (36 ml) and finally with water (12 ml). The solution was concentrated, then n-heptane (18 ml) was added at 80° C. The solution was cooled to 0 to 5° C. and stirred for 30 minutes. The product crystallized from solution, it was filtered, washed with cold n-heptane (5 ml) and dried at 40° C. under vacuum. The compound 1-(3′,4′-dichloro-2-fluoro[1,1′-biphenyl]-4-yl)-cyclopropanenitrile was obtained as a yellow powder (6.4 g, 65% yield).

reactant | 3′,4′-dichloro-2-fluoro-4-cyanomethyl-biphenyl | 0.032 mol, 9.0 g | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)CC#N)F | C14H8Cl2FN
reactant | 1,2-dibromomethane | 0.048 mol, 9.0 g | C(CBr)Br | C2H4Br2
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | Sodium hydroxide | [OH-].[Na+]
catalyst | tetrabutylammonium chloride | 0.043 mol, 1.2 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 9 ml | O | H2O
product | 1-(3′,4′-dichloro-2-fluoro[1,1′-biphenyl]-4-yl)-cyclopropanenitrile | ClC=1C=C(C=CC1Cl)C1=C(C=C(C=C1)C1(CC1)C#N)F | C16H10Cl2FN
